US06706744B2
3-(4-Formylbenzoylamino)propionic acid methyl ester (10 g, 42.5 mmol) was dissolved in methanol (100 ml). With mechanical stirring 4-cyclohexylaniline (7.4 g, 42.5 mmol) was added in portions. Methanol (100 ml) was added and the resulting suspension was stirred under nitrogen at room temperature for 3 hours. Sodium cyano borohydride (4.01 g, 63.8 mmol) was added in portions and the resulting solution was stirred at room temperature for 4 days. Filtration and drying in vacuo of the formed crystals afforded 6.40 g (38%) of 3-{4-[(4-cyclohexylphenylamino)methyl]benzoylamino}propionic acid methyl ester as a solid. From the mother liquor a second crop of 2.49 g (15%) could be isolated by concentration in vacuo followed by washing with methanol.

reactant | 3-(4-Formylbenzoylamino)propionic acid methyl ester | 42.5 mmol, 10 g | COC(CCNC(C1=CC=C(C=C1)C=O)=O)=O | C12H13NO4
reactant | 4-cyclohexylaniline | 42.5 mmol, 7.4 g | C1(CCCCC1)C1=CC=C(N)C=C1 | C12H17N
reactant | Sodium cyano borohydride | 63.8 mmol, 4.01 g | C(#N)[BH3-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | Methanol | 100 ml | CO | CH4O
product | 3-{4-[(4-cyclohexylphenylamino)methyl]benzoylamino}propionic acid methyl ester | 6.40 g, 38% | COC(CCNC(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C1CCCCC1)=O)=O | C24H30N2O3
